US05800733
A solution of 0.433 g of N-ethyl-N'-(3-dimethylaminopropyl)carbodiimide hydrochloride (EDC) in 5 ml of dichloromethane was slowly added dropwise at 20° C. to a solution of 1.00 g of 6-[4'-[trans-4-(2-carboxy-ethyl)-cyclohexyl]-biphenyl-4-yloxy]-hexyl acrylate, 0.127 g of 3,4-dihydroxybenzonitrile and 0.255 g of 4-dimethylamino-pyridine (DMAP) in 30 ml of dichloromethane, the mixture was stirred at room temperature overnight, poured into 50 ml of water and then extracted three times with 25 ml of diethyl ether each time. The combined organic phases were washed twice with 50ml of water each time, dried over magnesium sulphate, filtered and subsequently concentrated. Chromatographic purification of the residue on silica gel with cyclohexane/ethyl acetate (vol. 8:2) and two-fold recrystallization from a cyclohexane/ethyl acetate mixture (vol. 8:2) of the fractions which were pure according to thin-layer chromatography gave 0.48 g of 3,4-bis-[3-[trans-4-[4'-(6-acryloyloxy-hexyloxy)-biphenyl-4-yl]-cyclohexyl]-propionyloxy]-benzonitrile.

reactant | N-ethyl-N'-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.433 g | Cl.C(C)N=C=NCCCN(C)C
reactant | 6-[4'-[trans-4-(2-carboxy-ethyl)-cyclohexyl]-biphenyl-4-yloxy]-hexyl acrylate | 1.00 g | C(C=C)(=O)OCCCCCCOC1=CC=C(C=C1)C1=CC=C(C=C1)[C@@H]1CC[C@H](CC1)CCC(=O)O | C30H38O5
reactant | 3,4-dihydroxybenzonitrile | 0.127 g | OC=1C=C(C#N)C=CC1O | C7H5NO2
reactant | water | 50 ml | O | H2O
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
catalyst | 4-dimethylamino-pyridine | 0.255 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 3,4-bis-[3-[trans-4-[4'-(6-acryloyloxy-hexyloxy)-biphenyl-4-yl]-cyclohexyl]-propionyloxy]-benzonitrile | 0.48 g | C(C=C)(=O)OCCCCCCOC1=CC=C(C=C1)C1=CC=C(C=C1)[C@@H]1CC[C@H](CC1)CCC(=O)OC=1C=C(C#N)C=CC1OC(CC[C@@H]1CC[C@H](CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)OCCCCCCOC(C=C)=O)=O | C67H77NO10
